US06174898B1
1-(2-((2-(3-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride
E or Z-1-(2-((2-(3-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester (0.55 g, 0.0013 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (5 ml) and 12 N sodium hydroxide solution (0.33 ml) was introduced. After stirring the solution at room temperature for 3 h, 37% hydrochloric acid solution was added until pH 1. Dichloromethane (200 ml) was introduced, and the mixture was dried (Na2SO4), filtered and evaporated to a residue, which was co-evaporated twice with acetone. Recrystallization from acetone/ethyl acetate provided the title compound (0.17 g, 30%) as a white solid.

reactant | Z-1-(2-((2-(3-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCO\C=C(/C1=C(C=CC=C1)C)\C1=CC(=CC=C1)Cl | C24H26ClNO3
reactant | sodium hydroxide | 12 N, 0.33 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | Dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(2-((2-(3-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride | 0.17 g, 30% | Cl.ClC=1C=C(C=CC1)C(=COCCN1CC(=CCC1)C(=O)O)C1=C(C=CC=C1)C | InChI=1S/C23H24ClNO3.ClH/c1-17-6-2-3-10-21(17)22(18-7-4-9-20(24)14-18)16-28-13-12-25-11-5-8-19(15-25)23(26)27;/h2-4,6-10,14,16H,5,11-13,15H2,1H3,(H,26,27);1H
